US05902803
A mixture of 0.25 g of 9-cyano-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 10 ml of acetic acid, 10 ml of trifluoroacetic acid and 20 mg of 10% palladium-on-charcoal is hydrogenated in an autoclave under a pressure of 50 bar for 20 hours. The suspension is filtered and washed with acetic acid. The filtrate is concentrated to dryness under reduced pressure (15 mm Hg; 2 Kpa) at 40° C. The solid obtained is dissolved in a mixture of 50 ml of acetic acid and 10 ml of concentrated hydrochloric acid and then again concentrated to dryness under reduced pressure (15 mm Hg; 2 kPa) at 40° C. The residue obtained, taken up in 25 ml of methanol, is filtered, then washed with two times 25 ml of isopropyl ether and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 20° C. 0.24 g of 9-aminomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride is obtained in the form of a white solid melting above 260° C. (Analysis C14H14Cl2N4O; % Calculated C: 51.71, H: 4.34, N: 17.23; % Found C: 52.11, H: 4.53, N: 17.04).

reactant | 9-cyano-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.25 g | C(#N)C=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | C14H8N4O
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium-on-charcoal | 20 mg | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 9-aminomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride | 0.24 g | Cl.Cl.NCC=1C=2CC3=C(NC(C=4N3C=CN4)=O)C2C=CC1 | InChI=1S/C14H12N4O.2ClH/c15-7-8-2-1-3-9-10(8)6-11-12(9)17-14(19)13-16-4-5-18(11)13;;/h1-5H,6-7,15H2,(H,17,19);2*1H
